US06399614B1
Preparation of 1-(2,5-dichlorobenzyl)-4-ethoxycarbonylpiperazine (Compound 14A)
2,5-Dichlorobenzyl chloride (2.01 g) was added to a mixture of 1.94 g of 1-ethoxycarbonylpiperazine and 3.45 g of anhydrous potassium carbonate in 20 ml of N,N-dimethylformamide stirred at room temperature in nitrogen atmosphere. After 24 h of stirring at the same temperature, the reaction mixture was poured into water and extracted with ethyl acetate. The organic phase, which was dried on anhydrous Na2SO4, was evaporated to dryness under vacuum. The oily residue was purified via flash chromatography (petrolium ether-ethyl acetate 85:15) giving 2 g (63%) of the title compound.

reactant | 2,5-Dichlorobenzyl chloride | 2.01 g | ClC1=C(CCl)C=C(C=C1)Cl | C7H5Cl3
reactant | 1-ethoxycarbonylpiperazine | 1.94 g | C(C)OC(=O)N1CCNCC1 | C7H14N2O2
reactant | potassium carbonate | 3.45 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1-(2,5-dichlorobenzyl)-4-ethoxycarbonylpiperazine | 2 g, 63% | ClC1=C(CN2CCN(CC2)C(=O)OCC)C=C(C=C1)Cl | C14H18Cl2N2O2
